US07138401B2
6-bromo-9-(4-bromo-3,5-dimethyl-pyridin-2-yl methyl)-9H-purin-2-ylamine
A mixture of 6-bromo-9H-purin-2-ylamine (2.4 g, 11 mmol), 4-bromo-2-chloromethyl-3,5-dimethyl pyridine (3.5 g, 15 mmol), K2CO3 (2.07 g, 15 mmol) and DMF (50 mL) was stirred at 50° C. for 2 h. Work-up and flash chromatography gave the title compound as a white solid (2.6 g, 56%). HPLC Rt: 5.415 min. 1H-NMR (CDCl3): δ 8.17 (s, 1H), 7.88 (s, 1H), 5.38 (s, 2H), 5.05 (s, 2H), 2.51 (s, 3H), 2.37 (s, 3H).

reactant | 6-bromo-9H-purin-2-ylamine | 11 mmol, 2.4 g | BrC1=C2N=CNC2=NC(=N1)N | C5H4BrN5
reactant | 4-bromo-2-chloromethyl-3,5-dimethyl pyridine | 15 mmol, 3.5 g | BrC1=C(C(=NC=C1C)CCl)C | C8H9BrClN
reactant | K2CO3 | 15 mmol, 2.07 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 6-bromo-9-(4-bromo-3,5-dimethyl-pyridin-2-yl methyl)-9H-purin-2-ylamine | 2.6 g, 56% | BrC1=C2N=CN(C2=NC(=N1)N)CC1=NC=C(C(=C1C)Br)C | C13H12Br2N6
